US05128351
5-Methyl-3-[[3-[[[[4-(tetradecyloxy)phenyl]amino]carbonyl]amino]phenyl]methyl]thiazolium bromide
A mixture of 4 g of N-[3-(bromomethyl)phenyl]-N'-[4-(tetradecyloxy)phenyl]urea and 2.3 g of 5-methylthiazole in 60 ml of tetrahydrofuran is refluxed for 4 hours. The solvent is evaporated, toluene added to the residue and evaporated to a residue. The residue is stirred with ether and the solid collected, washed with fresh ether and dried under vacuum to give 4.7 g of the desired product as a white powder, m.p. 165°-168° C.

reactant | N-[3-(bromomethyl)phenyl]-N'-[4-(tetradecyloxy)phenyl]urea | 4 g | BrCC=1C=C(C=CC1)NC(=O)NC1=CC=C(C=C1)OCCCCCCCCCCCCCC | C28H41BrN2O2
reactant | 5-methylthiazole | 2.3 g | CC1=CN=CS1 | C4H5NS
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 5-Methyl-3-[[3-[[[[4-(tetradecyloxy)phenyl]amino]carbonyl]amino]phenyl]methyl]thiazolium bromide | 4.7 g | [Br-].CC1=C[N+](=CS1)CC1=CC(=CC=C1)NC(=O)NC1=CC=C(C=C1)OCCCCCCCCCCCCCC | InChI=1S/C32H45N3O2S.BrH/c1-3-4-5-6-7-8-9-10-11-12-13-14-22-37-31-20-18-29(19-21-31)33-32(36)34-30-17-15-16-28(23-30)25-35-24-27(2)38-26-35;/h15-21,23-24,26H,3-14,22,25H2,1-2H3,(H-,33,34,36);1H
